US07186716B2
3-(3,5-Dimethyl-1H-pyrrol-2-yl)-1H-pyrazolo[3,4-b]pyridine
A mixture of (2-chloro-pyridin-3-yl)-(3,5-dimethyl-1H-pyrrol-2-yl)-methanone (240 mg, 1 mmol) and hydrazine hydrate (0.7 mL) in ethanol (2 mL) was heated at 100–110° C. for overnight. The reaction was concentrated and purified on a silica gel column to give 97 mg (46%) of the titled compound as a light yellow solid.

reactant | (2-chloro-pyridin-3-yl)-(3,5-dimethyl-1H-pyrrol-2-yl)-methanone | 1 mmol, 240 mg | ClC1=NC=CC=C1C(=O)C=1NC(=CC1C)C | C12H11ClN2O
reactant | hydrazine hydrate | 0.7 mL | O.NN
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 3-(3,5-Dimethyl-1H-pyrrol-2-yl)-1H-pyrazolo[3,4-b]pyridine | 97 mg, 46% | CC1=C(NC(=C1)C)C1=NNC2=NC=CC=C21 | C12H12N4
